US04119710
1-(4'-Amino-3'-bromo-5'-fluoro-phenyl)-2-(hydroxy-tert.butylamino)-ethanol,
m.p. 122°-125° C., was prepared from 4'-amino-3'-bromo-5'-fluoro-2-(hydroxy-tert.butylamino)-acetophenone hydrochloride and sodium borohydride analogous to Example 1.

reactant | 4'-amino-3'-bromo-5'-fluoro-2-(hydroxy-tert.butylamino)-acetophenone hydrochloride | Cl.NC1=C(C=C(C=C1F)C(CN(C(C)(C)C)O)=O)Br
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-bromo-5'-fluoro-phenyl)-2-(hydroxy-tert.butylamino)-ethanol | NC1=C(C=C(C=C1F)C(CN(C(C)(C)C)O)O)Br | C12H18BrFN2O2
